US04650910
4-Chloro-α-isopropylbenzyl cyanide
469 g (3.1 mol) of 4-chlorobenzyl cyanide, 30 g of tetrabutylammonium bromide, 1500 g of 50% strength sodium hydroxide solution and 438 g (3.56 mol) of isopropyl bromide are initially introduced into a 4 l multineck apparatus with reflux condenser and internal thermometer. The temperature rises after the stirrer is switched on. It is maintained at 40° C. for 4 h, initially by cooling and later by heating. The reaction mixture is cooled to room temperature, poured into a mixture of 500 ml of ether and 500 ml of water, the aqueous phase is separated off, and the organic phase is washed successively with 5% strength hydrochloric acid, sodium bicarbonate solution and water. After having been dried with sodium sufate, the solvent is removed by distillation. The residue remaining is 585.3 g of 97% pure 4-α-isopropylbenzyl cyanide. The product is pure enough for the subsequent hydrogenation.

reactant | 4-chlorobenzyl cyanide | 3.1 mol, 469 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | isopropyl bromide | 3.56 mol, 438 g | C(C)(C)Br | C3H7Br
reactant | ether | 500 ml | CCOCC | C4H10O
catalyst | tetrabutylammonium bromide | 30 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 500 ml | O | H2O
product | 4-Chloro-α-isopropylbenzyl cyanide | ClC1=CC=C(C(C(C)C)C#N)C=C1 | C11H12ClN
